US09216980B2
Step 2: 6′-Ethynyl-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4′]bipyridinyl-3′-ylamine
A mixture of 6′-((trimethylsilyl)ethynyl)-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-[3,4′]bipyridinyl-3′-ylamine (90 mg, 0.2 mmol) and potassium carbonate (150 mg, 1.1 mmol) in methanol (2 mL) was stirred at ambient temperature for 1 h. The cooled reaction mixture was diluted with DCM (20 mL) and methanol (2 mL) and washed with water (15 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a brown residue that was taken to the next step without purification.

reactant | 6′-((trimethylsilyl)ethynyl)-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-[3,4′]bipyridinyl-3′-ylamine | 0.2 mmol, 90 mg | C[Si](C)(C)C#CC1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C27H31FN4Si
reactant | potassium carbonate | 1.1 mmol, 150 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 2 mL | CO | CH4O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | 6′-Ethynyl-2-fluoro-5-(4-piperidin-1-ylmethylphenyl)-[3,4′]bipyridinyl-3′-ylamine | C(#C)C1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C24H23FN4
